US05276025
Step A: Preparation of 2(R,S)-methyl-7-sulfamoyl-3,4-dihydrothieno-[3,2-f]-1,4-thiazepin-5(2H)-on
Following the procedure described in Example 1, Step E, 2-chloro-3-carboethoxythiophene-2-sulfonamide was reacted with 1-amino-2-propanethiol hydrochloride in the presence of four equivalents of sodium ethoxide to give, after recrystallization from ethyl acetate, a 51% yield of title compound, mp 199°-201° C.

reactant | 2-chloro-3-carboethoxythiophene-2-sulfonamide | ClC1(SC=CC1C(=O)OCC)S(=O)(=O)N | C7H10ClNO4S2
reactant | 1-amino-2-propanethiol hydrochloride | Cl.NCC(C)S
reactant | sodium ethoxide | four equivalents | [O-]CC.[Na+]
product | 2(R,S)-methyl-7-sulfamoyl-3,4-dihydrothieno-[3,2-f]-1,4-thiazepin-5(2H)-on | 51% yield | CC1SC2=C(C(NC1)=O)C=C(S2)S(N)(=O)=O | C8H10N2O3S3
